US04128560
A solution of 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester (52.5 g, 0.21 mole), described in Example 7, in anhydrous ether (500 ml) and dry benzene (100 ml) is added dropwise under nitrogen to a cooled (0°-5° C.) stirred solution of phenyl magnesium bromide in ether prepared from magnesium turnings (15.9 g, 0.65 mole), bromobenzene (75 ml, 0.72 mole) and anhydrous ether (500 ml). (Note: Only about 75 ml of ether is used to start the reaction with 15 drops methyl iodide and 2-3 ml bromobenzene). The mixture is stirred overnight at room temperature. Following the careful addition of saturated ammonium chloride solution (114 ml) with cooling, the resulting yellow ether layer is decanted and the precipitated magnesium salts are rinsed thoroughly with ether. The combined ether layers are steam distilled and methanol (100 ml) and 25% aqueous sodium hydroxide (150 ml) is added to the residue. The mixture is heated at reflux for 2 hr to saponify any unreacted ester. The methanol is evaporated and the residue is extracted with ether (4×). The ether extracts are dried (MgSO4) and concentrated to give 6-methyl-α,α-diphenyl-1,4-dioxaspiro[4.5]decane-6-propanol, mp 115°-117° C. after recrystallization from chloroformhexane, νmaxCHCl3 3620, 3500, 1092 cm-1.

reactant | 6-methyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | 0.21 mole, 52.5 g | COC(CCC1(C2(OCCO2)CCCC1)C)=O | C13H22O4
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | magnesium | 0.65 mole, 15.9 g | [Mg] | Mg
reactant | bromobenzene | 0.72 mole, 75 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | bromobenzene | 2-3 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | ammonium chloride | 114 ml | [Cl-].[NH4+]
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | methyl iodide | 15 drops | CI | CH3I
solvent | ether | about 75 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 6-methyl-α,α-diphenyl-1,4-dioxaspiro[4.5]decane-6-propanol | CC1(C2(OCCO2)CCCC1)CCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30O3
